US04935440
Synthesis of 2-mercapto-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole
2-Thiocyano-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole (10.0 g) was dissolved in methanol (80 ml) and cooled to -10° C. Potassium hydroxide (3.2 g) in methanol (20.0 ml) and water (20.0 ml) was added at such a rate that the temperature did not exceed 0° C. After stirring for 1 hour at the same temperature, one half of the resulting solution was converted to the title compound by acidification with 20% HCl. The product was filtered, dissolved in methylene chlorede, dried and the solvent evaporated to dryness. The residue was chromatographed on silica gel (500 g) and the product eluted with hexane:ethyl acetate (1:1) to yield 1.56 g of the purified title compound, 2-mercapto-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole, after recrystalization from ethyl acetate-hexane [mp 213°-215° C.; 1H nmr: 1.46s (18H), 5.46s (OH), 6.93m (1H), 7.46m (1H), 7.76s (2H), 7.91 (NH); MS m/e 331 (M+)].

reactant | 2-Thiocyano-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 10.0 g | S(C#N)C=1NC=C(C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H24N2O2S
reactant | Potassium hydroxide | 3.2 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 20.0 ml | CO | CH4O
solvent | water | 20.0 ml | O | H2O
product | 2-mercapto-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | SC=1NC=C(C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H25NO2S
